US06903120B2
1-[3-(4-Propyl-piperazin-1-yl)-phenyl]-ethanone
Beginning with 1-(3-Piperazin-1-yl-phenyl)-ethanone and n-Pr-I: m.p. 119° C. (oxalate), MS m/z (rel. intensity, 70 eV) 246 (M+, 10), 217 (33), 132 (18), 70 (bp), 56 (41); Rf 0.23 (EtOAc).

reactant | 1-(3-Piperazin-1-yl-phenyl)-ethanone | N1(CCNCC1)C=1C=C(C=CC1)C(C)=O | C12H16N2O
reactant | n-Pr-I | C(CC)I | C3H7I
reactant | oxalate | C(C(=O)[O-])(=O)[O-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-[3-(4-Propyl-piperazin-1-yl)-phenyl]-ethanone | C(CC)N1CCN(CC1)C=1C=C(C=CC1)C(C)=O | C15H22N2O
